US04072760
3-(4-Methoxybenzamido)-4-hydroxy-5-bromo-α-(tert.butylaminomethyl)benzylalcohol hydrobromide.
In substantially the same manner as described above in Example 35 3-(4-methoxybenzamido)-4-hydroxy-α-(tert.butylaminomethyl)benzylalcohol hydrobromide was brominated with bromine in glacial acetic acid. The analytically pure title compound was precipitated from the reaction mixture with ether. M.p. 168° - 169.6° C.

reactant | 3-(4-methoxybenzamido)-4-hydroxy-α-(tert.butylaminomethyl)benzylalcohol hydrobromide | Br.COC1=CC=C(C(=O)NC=2C=C(C(CNC(C)(C)C)O)C=CC2O)C=C1
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(4-Methoxybenzamido)-4-hydroxy-5-bromo-α-(tert.butylaminomethyl)benzylalcohol hydrobromide | Br.COC1=CC=C(C(=O)NC=2C=C(C(CNC(C)(C)C)O)C=C(C2O)Br)C=C1 | InChI=1S/C20H25BrN2O4.BrH/c1-20(2,3)22-11-17(24)13-9-15(21)18(25)16(10-13)23-19(26)12-5-7-14(27-4)8-6-12;/h5-10,17,22,24-25H,11H2,1-4H3,(H,23,26);1H
